US07842696B2
10% Pd/c (40 mg) was added to a stirred solution of 5-(3-benzyloxy-phenyl)-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (74 mg, 0.12 mmol) (prepared by the method as described above) in MeOH (30 mL) and stirred under hydrogen atmosphere. The reaction mixture was then stirred for 6 hrs. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated under reduced pressure to afford 26 mg (41.9% yield) of 5-(3-hydroxy-phenyl)-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 99.07%. 1H NMR (CD3OD): δ 7.64 (m, 4H), 7.5 (d, 1H), 7.32 (m, 1H), 7.24 (s, 1H), 6.98 (m, 2H), 4.26 (m, 2H), 3.7 (m, 4H), 3.5 (m, 2H), 3.38 (m, 1H), 3.24 (m, 1H).

reactant | 5-(3-benzyloxy-phenyl)-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 0.12 mmol, 74 mg | O=C(CNC(=O)C1=NOC(=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C31H27F3N4O5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 5-(3-hydroxy-phenyl)-isoxazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 26 mg, 41.9% yield | O=C(CNC(=O)C1=NOC(=C1)C1=CC(=CC=C1)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F3N4O5
